US08486967B2
a) 6-(4-Fluoro-phenyl)-pyrazin-2-ylamine
Prepared in analogy to example 1d, starting from 2-amino-6-chloropyrazine and 4-fluorobenzeneboronic acid. The title compound was obtained as a slightly brown solid (yield: 91%).

reactant | 2-amino-6-chloropyrazine | NC1=NC(=CN=C1)Cl | C4H4ClN3
reactant | 4-fluorobenzeneboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 6-(4-Fluoro-phenyl)-pyrazin-2-ylamine | FC1=CC=C(C=C1)C1=CN=CC(=N1)N | C10H8FN3
